US04324786
Preparation of 3-hydroxy-1,2-dipropionyl-1,2-dihydro-pyrido[2,3-e]-as-triazine
2.0 g (0.013 moles) of 3-hydroxy-1,2-dihydro-pyrido[2,3-e]-as-triazine are reacted with 16 ml of propionic anhydride as described in Example 3 to obtain 2.45 g (72%) of the title compound; m.p.: 186°-187° C.

reactant | 3-hydroxy-1,2-dihydro-pyrido[2,3-e]-as-triazine | 0.013 moles, 2.0 g | OC=1NNC2=C(N1)N=CC=C2 | C6H6N4O
reactant | propionic anhydride | 16 ml | C(CC)(=O)OC(CC)=O | C6H10O3
product | 3-hydroxy-1,2-dipropionyl-1,2-dihydro-pyrido[2,3-e]-as-triazine | 2.45 g, 72% | OC=1N(N(C2=C(N1)N=CC=C2)C(CC)=O)C(CC)=O | C12H14N4O3
